US05703092
(b) N-Butyloxycarbonyl-3-cyano-D-alanine methyl ester
To a solution of N-butyloxycarbonyl-3-cyano-D-alanine (20.5 g, 97 mmol) and 4-dimethylaminopyridine (11.85 g, 97 mmol) in 150 mL THF and 33 mL methanol was added N,N'-dicyclohexylcarbodiimide (20 g, 97 mmol) and the solution was allowed to stir at room temperature for 2 hours. Insoluble material was removed by filtration and the solution was concentrated. The residue was taken up in ethyl acetate and the solution was washed with 5% citric acid, brine, NaHCO3 and brine, dried (MgSO4), and concentrated. Crystallization from ethyl acetate gave 18.8 g (85%) product. 1H-NMR: d (CDCl3) 5.48 (d, 1H); 4.54 (m, 1H); 3.84 (s, 3H); 2.98 (m, 2H); 1.44 (s, 9H). ES-MS: calcd M+1 229.2; found 229.0.

reactant | N-butyloxycarbonyl-3-cyano-D-alanine | 97 mmol, 20.5 g | C(CCC)OC(=O)N[C@H](CC#N)C(=O)O | C9H14N2O4
reactant | N,N'-dicyclohexylcarbodiimide | 97 mmol, 20 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 97 mmol, 11.85 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | methanol | 33 mL | CO | CH4O
product | N-Butyloxycarbonyl-3-cyano-D-alanine methyl ester | 18.8 g, 85% | COC([C@H](NC(=O)OCCCC)CC#N)=O | C10H16N2O4
